US04170464
preparation of 3,5-Diphenylpyrazole
22.4 Grams (0.10 moles) of dibenzoylmethane in 200 ml. of isopropyl alcohol are heated to reflux (approximately 85° C.), and to this is added hydrazine hydrate at a rate sufficient to maintain reflux. Thirty minutes after addition, the reaction is complete. The reaction mixture is permitted to cool and is then poured into water. The desired product as a fine white solid precipitates and is filtered, washed with cold water and dried, yielding 22.1 grams of product, melting point 198.5° C. to 200.5° C.

reactant | dibenzoylmethane | 0.10 moles | C(C1=CC=CC=C1)(=O)CC(C1=CC=CC=C1)=O | C15H12O2
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
reactant | hydrazine hydrate | O.NN
solvent | water | O | H2O
product | 3,5-Diphenylpyrazole | 22.1 grams | C1(=CC=CC=C1)C1=NNC(=C1)C1=CC=CC=C1 | C15H12N2
